US04556665
4-Ethyl-1,3-dihydro-5-[4-(2-methyl-1H-imidazol-1-yl)benzoyl]-2H-imidazol-2-one
In a manner similar to Example I react 2,3-dihydro-5-ethyl-2-oxo-1H-imidazole-4-carboxylic acid with 4-(2-methyl-1H-imidazol-1-yl)benzoic acid to produce the title compound.

reactant | 2,3-dihydro-5-ethyl-2-oxo-1H-imidazole-4-carboxylic acid | C(C)C1=C(NC(N1)=O)C(=O)O | C6H8N2O3
reactant | 4-(2-methyl-1H-imidazol-1-yl)benzoic acid | CC=1N(C=CN1)C1=CC=C(C(=O)O)C=C1 | C11H10N2O2
product | 4-Ethyl-1,3-dihydro-5-[4-(2-methyl-1H-imidazol-1-yl)benzoyl]-2H-imidazol-2-one | C(C)C=1NC(NC1C(C1=CC=C(C=C1)N1C(=NC=C1)C)=O)=O | C16H16N4O2
